US05576324
2-Aminomethyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one (600 mg) and di-t-butyldicarbonate (1.1 g) were dissolved in tetrahydrofuran (131 ml), and stirred at room temperature for 2 hours. After another addition of di-t-butylcarbonate (500 mg), the mixture was stirred at room temperature for 100 minutes. After completion of the reaction, the solvent was distilled off, and the residue was purified by silica gel column chromatography (eluent=chloroform:methanol=70:1) to obtain 668 mg of 2-(t -butoxycarbonyl)-aminomethyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one (76.0%). This compound was recrystallized from a solvent mixture of chloroform-n-hexane to obtain colorless powdery crystals (mp.: 193°-196° C.).

reactant | 2-Aminomethyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one | 600 mg | NCC1CC=2C(=C3C=CC(NC3=CC2)=O)O1 | C12H12N2O2
reactant | di-t-butyldicarbonate | 1.1 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-t-butylcarbonate | 500 mg | C(C)(C)(C)OC(OC(C)(C)C)=O | C9H18O3
solvent | tetrahydrofuran | 131 ml | O1CCCC1 | C4H8O
product | 2-(t -butoxycarbonyl)-aminomethyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one | 668 mg, 76.0% | C(C)(C)(C)OC(=O)C1(CC=2C(=C3C=CC(NC3=CC2)=O)O1)CN | C17H20N2O4
